US05082838
2-Phenylthiomethyl-6-propyl-2,3-dihydro-5H-thiazolo[3,2-c]pyrimidine-5,7(6H)-dione
A mixture of 2-chloromethyl-6-propyl-2,3-dihydro-5H-thiazolo[3,2-c]pyrimidine-5,7(6H)-dione (0.8 g), thiophenol (0.47 ml) and potassium carbonate (0.63 g) was refluxed in ethanol (20 ml) for 42 hours. The solution was concentrated to dryness, and the resulting residue thus obtained was dissolved in methylene chloride and water. After washing with water and drying, the organic solution was concentrated to dryness. The resulting syrup was purified by column chromatography on silica gel to give colorless syrup. This syrup was allowed to stand in a refrigerator to obtain colorless crystals (1.2 g, 95%).

reactant | 2-chloromethyl-6-propyl-2,3-dihydro-5H-thiazolo[3,2-c]pyrimidine-5,7(6H)-dione | 0.8 g | ClCC1CN2C(N(C(C=C2S1)=O)CCC)=O | C10H13ClN2O2S
reactant | thiophenol | 0.47 ml | C1(=CC=CC=C1)S | C6H6S
reactant | potassium carbonate | 0.63 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-Phenylthiomethyl-6-propyl-2,3-dihydro-5H-thiazolo[3,2-c]pyrimidine-5,7(6H)-dione | 1.2 g, 95% | C1(=CC=CC=C1)SCC1CN2C(N(C(C=C2S1)=O)CCC)=O | C16H18N2O2S2
